US05661162
1t-Butoxycarbonyl-4-phenyl-4-[3,5-bis(trifluoromethyl) benzylsulphonyl methyl]piperidine was dissolved in diethyl ether (5 ml) and ethereal HCl (5 ml) was added. The solution was left standing for 16 h, solvent was removed and residue was recrystallised from isopropyl alcohol/isopropyl ether giving 4-phenyl-4-[3,5-bis(trifluoromethyl)benzylsulphonylmethyl]piperidine hydrochloride (196 mg) as a white solid, m.p. 249° C. (dec), m/z (CI+) 466 (M+ +1). Found: C, 49.90; H, 4.36; N, 2.89. C21H21NO2SF6. HCl requires C, 50.25; H, 4.42; N, 2.79.

reactant | 1t-Butoxycarbonyl-4-phenyl-4-[3,5-bis(trifluoromethyl) benzylsulphonyl methyl]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(CS(=O)(=O)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C26H29F6NO4S
reactant | HCl | 5 ml | Cl | ClH
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4-phenyl-4-[3,5-bis(trifluoromethyl)benzylsulphonylmethyl]piperidine hydrochloride | 196 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)CS(=O)(=O)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | InChI=1S/C21H21F6NO2S.ClH/c22-20(23,24)17-10-15(11-18(12-17)21(25,26)27)13-31(29,30)14-19(6-8-28-9-7-19)16-4-2-1-3-5-16;/h1-5,10-12,28H,6-9,13-14H2;1H
